US04535052
B. Preparation of bis-(N-ethyl-1,2,3,4-tetrahydro-6-quinolyl)ketone
To 400 ml absolute ethanol was added with stirring 16 g (0.0478 mole) bis-(N-ethyl-1,2,3,4-tetrahydro-6-quinolyl)methane, prepared as described in A, and 23.82 g chloranil. The green mixture was heated to reflux for 1 hour, cooled to room temperature over 1 hour and rotary evaporated to dryness. The residue was taken up in methylene chloride and eluted through neutral Woelm Alumina. A red solid remained on the top of the column. The fractions were rotary evaporated to dryness and the oil taken up in ethanol to yield light yellow crystals which were collected by filtration to give 6.06 g, mp 120°-120.5° C. (36.4% yield). An ultraviolet spectrum in ethanol gave a λmax of 382 nm. ε was 40,500.

reactant | bis-(N-ethyl-1,2,3,4-tetrahydro-6-quinolyl)methane | 0.0478 mole, 16 g | C(C)N1CCCC2=CC(=CC=C12)CC=1C=C2CCCN(C2=CC1)CC | C23H30N2
reactant | chloranil | 23.82 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | bis-(N-ethyl-1,2,3,4-tetrahydro-6-quinolyl)ketone | 36.4% yield | C(C)N1CCCC2=CC(=CC=C12)C(=O)C=1C=C2CCCN(C2=CC1)CC | C23H28N2O
